US07157492B2
7-Butyl-5H-dibenzo[c,g]chromene-3,9-diol
A mixture of 7-bromo-5H-dibenzo[c,g]chromene-3,9-diol (420 mg, 1.23 mmol), 2-tributylstannylthiazole (0.95 ml, 1.15 g, 3.07 mmols) and dichlorobis(tri-O-toylphosphine)palladium(II) (97 mg, 0.123 mmoles) in DMF (12 ml) is heated at 110° C. with stirring for 18 h. The mixture was filtered through celite, extracted with ethyl acetate (×3), washed with brine, dried over sodium sulfate, filtered, stripped of solvent and purified by silica column chromatography (25% ethyl acetate-hexane) to yield 200 mg (51%) of the title compound as a yellow solid. The analytical sample is further purified by another silica column chromatography (10%–20% ethyl acetate-hexane) to yield a yellowish solid.: mp 187–189° C.; 1H NMR (DMSO-d6): δ 0.94 (3H, t, J=7.17 Hz), 1.37–1.44 (2H, m), 1.47–1.58 (2H, m), 2.92 (2H, t, J=7.00 Hz), 5.04 (2H, s), 6.73 (1H, d, J=2.36 Hz), 6.82 (1H, dd, J=8.44 Hz, J=2.48 Hz), 6.92 (1H, dd, J=8.76 Hz, J=2.18 Hz), 7.12 (1H, d, J=2.05 Hz), 7.71 (1H, d, J=8.88 Hz ), 7.76 (1H, d, J=8.53 Hz), 8.00 (1H, s), 9.63 (1H, s), 9.67 (1H, s); MS (ESI) m/z 319 (M−H)−, 321 (M+H)+.

reactant | 7-bromo-5H-dibenzo[c,g]chromene-3,9-diol | 1.23 mmol, 420 mg | BrC1=C2C(=CC=3C4=C(COC13)C=C(C=C4)O)C=CC(=C2)O | C17H11BrO3
reactant | 2-tributylstannylthiazole | 3.07 mmols, 0.95 ml, 1.15 g | C(CCC)[Sn](C=1SC=CN1)(CCCC)CCCC
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
product | 7-Butyl-5H-dibenzo[c,g]chromene-3,9-diol | 200 mg, 51% | C(CCC)C1=C2C(=CC=3C4=C(COC13)C=C(C=C4)O)C=CC(=C2)O | C21H20O3
